*** SPICE deck for cell NLatch{lay} from library Reliable_CMOS_PUF(1)
*** Layout tech: mocmos, foundry MOSIS
.OPTIONS DEFL=3UM DEFW=3UM DEFAD=70P DEFAS=70P RELTOL=0.01
.MODEL NMOS NMOS LEVEL=1
+KP=60E-6 VTO=0.7 GAMMA=0.3 LAMBDA=0.05 PHI=0.6
+TOX=40E-9 CGSO=2.0E-10 CGDO=2.0E-10 CJ=.2M
.MODEL PMOS PMOS LEVEL=1
+KP=20E-6 VTO=0.7 GAMMA=0.4 LAMBDA=0.05 PHI=0.6
+TOX=40E-9 CGSO=3.0E-10 CGDO=3.0E-10 CJ=.2M
*** SUBCIRCUIT Inverter ***
.SUBCKT _1210159_HW2__Inverter gnd In Out vdd
Mnmos@0 Out In gnd gnd NMOS L=0.6U W=3U AS=12.915P AD=9.225P PS=27.9U PD=20.1U
Mpmos@0 Out In vdd vdd PMOS L=0.6U W=6U AS=19.215P AD=9.225P PS=39.9U PD=20.1U
.ENDS _1210159_HW2__Inverter
*** TOP LEVEL CELL: NLatch{lay} ***
Xinv_20_1@0 gnd net@0 net@75 vdd _1210159_HW2__Inverter
Xinv_20_1@1 gnd net@75 Q vdd _1210159_HW2__Inverter
Xinv_20_1@2 gnd CLK net@45 vdd _1210159_HW2__Inverter
Mnmos@0 net@0 CLK D gnd NMOS L=0.6U W=3U AS=5.535P AD=5.333P PS=9.9U PD=9.75U
Mnmos@1 Q net@45 net@0 gnd NMOS L=0.6U W=3U AS=5.333P AD=5.13P PS=9.75U PD=9.6U
Mpmos@0 net@0 net@45 D vdd PMOS L=0.6U W=3U AS=5.535P AD=5.333P PS=9.9U PD=9.75U
Mpmos@1 Q CLK net@0 vdd PMOS L=0.6U W=3U AS=5.333P AD=5.13P PS=9.75U PD=9.6U
* --- test harness ---
.global gnd vdd
VDD vdd 0 DC 5
VCLK CLK 0 PULSE(0 5 0 1n 1n 2u 4u)
VD   D   0 PULSE(0 5 1u 1n 1n 3u 6u)
CLOAD Q 0 50f
.measure tran trise TRIG V(Q) VAL=0.5 RISE=1 TARG V(Q) VAL=4.5 RISE=1
.measure tran tfall TRIG V(Q) VAL=4.5 FALL=1 TARG V(Q) VAL=0.5 FALL=1
.tran 0.1u 20u
.END
